US04776929
112.5 g of trimethylbenzylammonium monomethylcarbonate and 55.0 g of water were introduced in the same reactor as used in Preparation Example 1 and heated with stirring. After the temperature in the reactor reached 120° C., the reaction was continued for 3 hours at 120° C. Trimethylbenzylammonium hydrogencarbonate was obtained in a yield of 95.7 mol %.

reactant | trimethylbenzylammonium monomethylcarbonate | 112.5 g | COC([O-])=O.C[N+](CC1=CC=CC=C1)(C)C
solvent | water | 55.0 g | O | H2O
product | Trimethylbenzylammonium hydrogencarbonate | C(O)([O-])=O.C[N+](CC1=CC=CC=C1)(C)C | InChI=1S/C10H16N.CH2O3/c1-11(2,3)9-10-7-5-4-6-8-10;2-1(3)4/h4-8H,9H2,1-3H3;(H2,2,3,4)/q+1;/p-1
